US05661169
5-Ethoxy-1,3-dihydro-3-(indan-2-yl)-2H-benzimidazol-2-one
To sodium ethoxide solution, prepared from 0.61 g of sodium in 200 ml of EtOH, are added 26 g of 2-aminoindane hydrochloride and then 20 g of 4-chloro-1,2-dinitrobenzene and the mixture is left stirring for 48 hours at RT. The solvent is evaporated off under vacuum, the residue is extracted with EtOAc, washed with water and dried over Na2SO4, and the solvent is evaporated off under vacuum. 10.3 g of the expected product are obtained after crystallization from EtOH, mp=108° C.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.61 g | [Na] | Na
reactant | 2-aminoindane hydrochloride | 26 g | Cl.NC1CC2=CC=CC=C2C1
reactant | 4-chloro-1,2-dinitrobenzene | 20 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | EtOH | 200 ml | CCO | C2H6O
product | 5-Ethoxy-1,3-dihydro-3-(indan-2-yl)-2H-benzimidazol-2-one | 10.3 g | C(C)OC1=CC2=C(NC(N2C2CC3=CC=CC=C3C2)=O)C=C1 | C18H18N2O2
